US05280032
A mixture of 2.5 g of 2-[2-(N,N-dimethylamino)ethoxy]-1-[1-(tetrahydropyran-2-yloxy)indan-5-yl]ethanol, 8 ml of acetic anhydride and 0.64 ml of pyridine was stirred at room temperature for 1 hour. The reaction mixture was added to a mixture of 50 ml of ice water and 50 ml of diethyl ether. The organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: chloroform/methanol=10/1) to obtain 1.9 g of oily 1-acetoxy-2-[2-(N,N-dimethylamino)ethoxy]-1-[1-(tetrahydropyran-2-yloxy) indan-5-yl]ethane (compound No. 295).

reactant | 2-[2-(N,N-dimethylamino)ethoxy]-1-[1-(tetrahydropyran-2-yloxy)indan-5-yl]ethanol | 2.5 g | CN(C)CCOCC(O)C=1C=C2CCC(C2=CC1)OC1OCCCC1 | C20H31NO4
reactant | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.64 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-acetoxy-2-[2-(N,N-dimethylamino)ethoxy]-1-[1-(tetrahydropyran-2-yloxy) indan-5-yl]ethane | 1.9 g | C(C)(=O)OC(COCCN(C)C)C=1C=C2CCC(C2=CC1)OC1OCCCC1 | C22H33NO5
